US08536346B2
(E)-3-(4-{[2-(2-methyl-1H-indol-3-yl)-ethylamino]-methyl]phenyl)-acrylic acid methyl ester hydrochloride salt (90 g, 233.8 mmole) is placed in a 4-necked reaction flask and methanol (475 g) is added. The suspension is cooled to −15° C. A solution of sodium hydroxide (28.2 g, 705 mmole) in methanol (419.2 g) is added to the suspension at −15° C. (addition time ca. 30 minutes), followed by the addition of the hydroxylamine solution (100.3 g of a 50% solution in water, corresponding to 50.15 g hydroxylamine, 1518 mmole) at, this temperature (addition time ca. 30 minutes). Caution: it is important to use different addition funnels for the sodium hydroxide and hydroxylamine solutions respectively. Stirring is continued at −15° C. for an additional 7 hours until a conversion of >99.5 area % is achieved according to HPLC. The reaction mixture is warmed to 0° C., stirred for 5 hours at 0-5° C., warmed to 20° C. and stirring is continued for 8 hours at 20-25° C. De-mineralized water (225 g) is added to the suspension at 20-25° C. during 30 minutes to obtain a solution. The solution is filtered and the filter as well as the filter pipeline are washed with de-mineralized water (225 g). The pH of the solution is adjusted to 10.3-10.7 by the addition of an aqueous hydrochloric acid solution (ca. 140 g of a 7.8 m/m % solution in water). Seed crystals are added as a suspension of N-hydroxy-3-[4-[[[2-(2-methyl-1H-indol-3-yl)ethyl]amino]methyl]phenyl]-2E-2-propenamide free base (80 mg) in water (5 g) and the mixture is stirred for ca. 30 minutes at 20-25° C., until a suspension is formed. The pH of the suspension is then adjusted to 8.5-9.0 by addition of an aqueous hydrochloric acid solution (ca. 108 g of a 7.8 m/m % solution in de-mineralized water) at 20-25° C. and stirring is continued for at least 30 minutes at 20-25° C. The solid product is isolated by filtration and the filter cake is washed with a 1:1 (v/v) mixture of demineralized water and methanol (140 mL). The wet product is dried at 45-50° C./5 mbar for 24 hours to obtain N-hydroxy-3-[4-[[[2-(2-methyl-1H-indol-3-yl)ethyl]amino]methyl]phenyl]-2E-2-propenamide. Yield: 81.15 g; 99.3% of the theory. HPLC analysis indicated 97.6 area % purity for the product, which comprised 3.2% w/w of water. The hydroxylamine content was found to be 345 ppm, which is sufficient for the preparation of the corresponding lactate salt with <5 ppm hydroxylamine.

reactant | (E)-3-(4-{[2-(2-methyl-1H-indol-3-yl)-ethylamino]-methyl]phenyl)-acrylic acid methyl ester hydrochloride salt | 233.8 mmole, 90 g | Cl.COC(\C=C\C1=CC=C(C=C1)CNCCC1=C(NC2=CC=CC=C12)C)=O
reactant | sodium hydroxide | 705 mmole, 28.2 g | [OH-].[Na+]
reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine | 50.15 g | NO | H3NO
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 419.2 g | CO | CH4O
solvent | water | O | H2O
solvent | water | 225 g | O | H2O
solvent | methanol | 475 g | CO | CH4O
product | N-hydroxy-3-[4-[[[2-(2-methyl-1H-indol-3-yl)ethyl]amino]methyl]phenyl]-2E-2-propenamide | ONC(\C=C\C1=CC=C(C=C1)CNCCC1=C(NC2=CC=CC=C12)C)=O | C21H23N3O2
